US06043243
1-ethyl-2-(3-geranyloxy-4-methoxybenzoylaminomethyl)pyrrolidine
3-geranyloxy-4-methoxybenzoic acid(1.52 g) was dissolved in chloroform (50 ml) and triethylamine (1.4 ml), and then diphenylphosphinic chloride(1.0 ml) was added thereto while being cooled with ice. After being stirred for 15 minutes, the mixture, with 2-aminomethyl-1-ethylpyrrolidine(0.7 ml) added thereto, was stirred for 1.5 hours at room temperature. The reaction mixture was washed with saturated sodium hydrogencarbonate aqueous solution and saturated brine successively, dried over sodium sulfate anhydride, and then concentrated under a vacuum. The residue was purified by silica gel column chromatography (chloroform:methanol=15:1), thereby yielding 1.47 g(71%) of the aimed compound.

reactant | 3-geranyloxy-4-methoxybenzoic acid | 1.52 g | C(\C=C(/C)\CCC=C(C)C)OC=1C=C(C(=O)O)C=CC1OC | C18H24O4
reactant | diphenylphosphinic chloride | 1.0 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)Cl | C12H10ClOP
reactant | 2-aminomethyl-1-ethylpyrrolidine | 0.7 ml | NCC1N(CCC1)CC | C7H16N2
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | triethylamine | 1.4 ml | C(C)N(CC)CC | C6H15N
product | 1-ethyl-2-(3-geranyloxy-4-methoxybenzoylaminomethyl)pyrrolidine | 1.47 g, 71% | C(C)N1C(CCC1)CNC(C1=CC(=C(C=C1)OC)OC\C=C(/C)\CCC=C(C)C)=O | C25H38N2O3
